US04785113
Preparation of ethyl-3-amino-2-methylcrotonate acid (III)
10 kg ethyl methylacetoacetate and 4 l abs. etanol was mixed in an autoclave and 3.4 kg of liquid ammonia was added. The mixture is stirred and the temperature gradually increased to 80° C. during 4 hrs. This temperature is maintained over night. The temperature is decreased to 40° C. and the excess ammonia is evaporated. Toluene (10 l) is added and the water is separated. The organic layer is dried by evaporation of toluene and alcohol. The yield is quantitative. The product is low melting solid.

reactant | ethyl methylacetoacetate | 10 kg | CCC(CC(=O)OCC)=O | C7H12O3
reactant | ammonia | N | H3N
reactant | etanol | CCO | C2H6O
product | ethyl-3-amino-2-methylcrotonate | C(C)OC(\C(=C(\C)/N)\C)=O | C7H13NO2
